US04933338
46.8 g (0.3 mol) of ethyl iodide are added to a suspension of 67.5 g (0.3 mol) of N-ethyl-1H-benzimidazole-2-sulfonamide and 47.7 g (0.45 mol) of sodium carbonate in 450 ml of acetone and 20 ml of water. The mixture is left under reflux for 20 hours, the acetone is evaporated off, 200 ml of water are added and the product is extracted with methylene chloride. The organic layer is dried (Na2SO4) and evaporated. The residue is recrystallized from an ethanol/water mixture (2:1) to give 56.8 g (75%) of 1,N-diethyl-1H-benzimidazole-2-sulfonamide melting at 135°-9° C.

reactant | ethyl iodide | 0.3 mol, 46.8 g | C(C)I | C2H5I
reactant | N-ethyl-1H-benzimidazole-2-sulfonamide | 0.3 mol, 67.5 g | C(C)NS(=O)(=O)C1=NC2=C(N1)C=CC=C2 | C9H11N3O2S
reactant | sodium carbonate | 0.45 mol, 47.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 450 ml | CC(=O)C | C3H6O
solvent | water | 20 ml | O | H2O
product | 1,N-diethyl-1H-benzimidazole-2-sulfonamide | 56.8 g, 75% | C(C)N1C(=NC2=C1C=CC=C2)S(=O)(=O)NCC | C11H15N3O2S
